US05350748
2-Propanethiol (32 μL, 0.35 mmol) is added to a solution of methyl 4-[[[3-chloro-5-methoxybenzo[b]thien-2yl]carbonyl]amino]benzoate (100 mg, 0.27 mmol) in 1 mL of DMF. Diazabicycloundecene (DBU) (52 μL, 0.35 mmol) is added and the mixture is stirred at room temperature for 5 hours. The reaction mixture is diluted with ethyl acetate and washed with 1N HCl, water, and brine. The organic layer is dried over MgSO4. Filtration followed by concentration in vacuo and recrystallization from ethyl acetate:hexane gives methyl 4-[[[5-methoxy-3-[(1-methylethyl)thio]benzo[b]thien-2yl]carbonyl]amino]benzoate in 72% yield; mp=157.5°-158.5° C.

reactant | 2-Propanethiol | 0.35 mmol, 32 μL | CC(C)S | C3H8S
reactant | methyl 4-[[[3-chloro-5-methoxybenzo[b]thien-2yl]carbonyl]amino]benzoate | 0.27 mmol, 100 mg | ClC=1C2=C(SC1C(=O)NC1=CC=C(C(=O)OC)C=C1)C=CC(=C2)OC | C18H14ClNO4S
reactant | Diazabicycloundecene | 0.35 mmol, 52 μL | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-[[[5-methoxy-3-[(1-methylethyl)thio]benzo[b]thien-2yl]carbonyl]amino]benzoate | 72% yield | COC1=CC2=C(SC(=C2SC(C)C)C(=O)NC2=CC=C(C(=O)OC)C=C2)C=C1 | C21H21NO4S2
